US07807274B2
There were mixed 12.68 g (0.022 mole) of N,N-bis(bi-phenyl-4-yl)-N′-phenyl-4,4′-diaminobiphenyl, 5.00 g (0.01 mole) of 4,4″-diiodo-p-terphenyl, 4.14 g (0.030 mole) of anhydrous potassium carbonate, 0.32 g (0.005 mole) of copper powder and 10 ml of n-dodecane, followed by reaction at 195 to 210° C. for 30 hours. The reaction product was extracted with 800 ml of toluene, and the insoluble matter was removed by filtration. Then, the filtrate was concentrated. After the concentration, 100 ml of methanol was added to perform crystallization, and suction filtration was performed to obtain crude crystals. The crude crystals were dissolved in 300 ml of toluene under reflux, and allowed to cool down to 45° C. Then, 300 ml of ethyl acetate was added dropwise to perform crystallization, thereby obtaining crystals. N,N′-bis[4-{bis(biphenyl-4-yl)amino}biphenyl-4′-yl]-N,N′-diphenyl-4,4″-diamino-p-terphenyl was obtained in an amount of 9.43 g. The yield was 65.9%, and the HPLC purity was 94.7%.

reactant | N,N-bis(bi-phenyl-4-yl)-N′-phenyl-4,4′-diaminobiphenyl | 0.022 mole, 12.68 g | C1(=CC=C(C=C1)N(C1=CC=C(C=C1)C1=CC=C(C=C1)NC1=CC=CC=C1)C1=CC=C(C=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C42H32N2
reactant | 4,4″-diiodo-p-terphenyl | 0.01 mole, 5.00 g | IC1=CC=C(C=C1)C1=CC=C(C=C1)C1=CC=C(C=C1)I | C18H12I2
reactant | potassium carbonate | 0.030 mole, 4.14 g | C([O-])([O-])=O.[K+].[K+]
reactant | n-dodecane | 10 ml | CCCCCCCCCCCC | C12H26
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
catalyst | copper | 0.005 mole, 0.32 g | [Cu] | Cu
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
product | N,N′-bis[4-{bis(biphenyl-4-yl)amino}biphenyl-4′-yl]-N,N′-diphenyl-4,4″-diamino-p-terphenyl | yield was 65.9% | C1(=CC=C(C=C1)N(C1=CC=C(C=C1)C1=CC=C(C=C1)N(C1=CC=C(C=C1)C1=CC=C(C=C1)C1=CC=C(C=C1)N(C1=CC=CC=C1)C1=CC=C(C=C1)C1=CC=C(C=C1)N(C1=CC=C(C=C1)C1=CC=CC=C1)C1=CC=C(C=C1)C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=C(C=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C102H74N4
